US06627651B1
A mixture of ethyl vanillin (5.0 g), 2-chloroethyl propyl ether (4.6 ml), sodium iodide (5.46 g), potassium carbonate (6.23 g) and DMF (50 ml) was stirred at 90° C. for 3 days. The reaction mixture was mixed with water and was extracted with ethyl acetate. The organic layer was washed with water and an aqueous saturated solution of sodium chloride, and was dried with magnesium sulfate. After concentration under reduced pressure, the residue was subjected to separation and purification using column chromatography (ethyl acetate:hexane 1:2) to obtain 3-ethoxy-4-(2-propoxyethoxy)benzaldehyde (7.34 g) as a light yellow, oily substance.

reactant | ethyl vanillin | 5.0 g | O=CC1=CC(OCC)=C(O)C=C1 | C9H10O3
reactant | 2-chloroethyl propyl ether | 4.6 ml | C(CC)OCCCl | C5H11ClO
reactant | sodium iodide | 5.46 g | [I-].[Na+]
reactant | potassium carbonate | 6.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-ethoxy-4-(2-propoxyethoxy)benzaldehyde | 7.34 g | C(C)OC=1C=C(C=O)C=CC1OCCOCCC | C14H20O4
